US06072074
Hereinafter, the present invention is explained in more detail below referring to production example and reference examples but the present invention should not be limited in the following examples. Example 1 (preparation example of the present compound) A mixture solution of 27.5 g of ethyl 3,3-dimethyl-4,6,6-trichloroheptanoate and 204 g of a 20% ethanol solution of sodium ethoxide was stirred under reflux for 48 hours. The reaction solution was poured into ice and extracted with 500 ml of ethyl acetate 3 times. The combined extract was washed with 500 ml of water twice, dried over anhydrous sodium sulfate, concentrated under reduced pressure and the residue was distilled under reduced pressure to afford 11.6 g of ethyl trans-3-(1-propynyl)-2,2-dimethylcyclopropanecarboxylate (yield: 64%).

reactant | ethyl 3,3-dimethyl-4,6,6-trichloroheptanoate | 27.5 g | CC(CC(=O)OCC)(C(CC(C)(Cl)Cl)Cl)C | C11H19Cl3O2
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | ethyl trans-3-(1-propynyl)-2,2-dimethylcyclopropanecarboxylate | 11.6 g, yield: 64% | C(#CC)[C@@H]1C([C@H]1C(=O)OCC)(C)C | C11H16O2
